US06228841B1
Z-Phe-MeβAla-O-t-Bu (21.0 g, 47.6 mmol) was dissolved in methanol (200 ml), and added with 5% Pd-C (water content: 50%, 21 g) as catalyst, and catalytic reduction was carried out for four hours to remove the protective group. After the catalyst was removed by filtration, the solvent was evaporated under reduced pressure, and the residue was dissolved in dimethylformamide (100 ml). Z-D-Arg(Tos)-OH (20.0 g, 43.2 mmol) and 1-hydroxybenzotriazole (6.43 g, 47.6 mmol) were dissolved in the solution. The solution was cooled to −1° C., added with 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (9.12 g, 47.6 mmol), and then stirred at −10° C. for one hour and further at room temperature for 18 hours. After the solvent was evaporated under reduced pressure, the reaction mixture was added with ethyl acetate (100 ml), and washed with 1N hydrochloric acid and then with saturated aqueous sodium hydrogencarbonate. The solvent was concentrated under reduced pressure to obtain 31.9 g of Z-D-Arg(Tos)-Phe-MeβAla-O-t-Bu as a colorless oily product.

reactant | Z-Phe-MeβAla-O-t-Bu | 47.6 mmol, 21.0 g | N([C@@H](CC1=CC=CC=C1)C(=O)N(CCC(=O)OC(C)(C)C)C)C(=O)OCC1=CC=CC=C1 | C25H32N2O5
reactant | Z-D-Arg(Tos)-OH | 43.2 mmol, 20.0 g | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H26N4O6S
reactant | 1-hydroxybenzotriazole | 47.6 mmol, 6.43 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 47.6 mmol, 9.12 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd-C | 21 g | [Pd] | Pd
product | Z-D-Arg(Tos)-Phe-MeβAla-O-t-Bu | 31.9 g | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(CCC(=O)OC(C)(C)C)C)C(=O)OCC1=CC=CC=C1 | C38H50N6O8S
